* /home/hardy/ownCloud/Lernen/BSZAM/Projektarbeit/KiCad/RelaisAnbindung.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: Fr 29 Jul 2016 18:28:01 CEST

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
K1  ? ? ? Net-_K1-Pad8_ Net-_K1-Pad9_ Net-_K1-Pad12_ Net-_K1-Pad14_ Net-_K1-Pad16_ RELAY_Stbsgr		
K2  ? ? ? Net-_K1-Pad8_ Net-_K2-Pad9_ Net-_K1-Pad12_ Net-_K2-Pad14_ Net-_K2-Pad16_ RELAY_Hakrsae		
P10  Net-_K1-Pad12_ ? ? Net-_K1-Pad14_ Net-_K1-Pad16_ Net-_K2-Pad14_ Net-_K2-Pad16_ CONN_K_230VAC		
RPi1  Net-_P11-Pad1_ Net-_F1-Pad2_ Net-_P2-Pad1_ ? Net-_P2-Pad2_ Net-_P4-Pad2_ Net-_P3-Pad2_ Net-_P6-Pad2_ ? Net-_P7-Pad2_ Net-_R13-Pad2_ Net-_P8-Pad2_ Net-_R12-Pad2_ ? Net-_R11-Pad2_ Net-_P9-Pad2_ ? Net-_P11-Pad2_ Net-_R9-Pad2_ ? Net-_R7-Pad2_ Net-_P12-Pad2_ Net-_R5-Pad2_ Net-_P13-Pad2_ ? Net-_P14-Pad2_ RASPBERRY_IO		
P1  Net-_K1-Pad8_ Net-_P1-Pad2_ Net-_P1-Pad3_ Net-_P1-Pad4_ Net-_P1-Pad5_ Net-_P1-Pad6_ Net-_P1-Pad7_ Net-_P1-Pad8_ CONN_SUPPLY2		
P3  Net-_P11-Pad1_ Net-_P3-Pad2_ CONN_Not-Aus		
R14  Net-_P4-Pad2_ Net-_P6-Pad2_ R10k		
R15  Net-_P4-Pad2_ Net-_P7-Pad2_ R10k		
R16  Net-_P4-Pad2_ Net-_P8-Pad2_ R10k		
R17  Net-_P4-Pad2_ Net-_P9-Pad2_ R10k		
R22  Net-_P4-Pad2_ Net-_P11-Pad2_ R10k		
R23  Net-_P4-Pad2_ Net-_P12-Pad2_ R10k		
R24  Net-_P4-Pad2_ Net-_P13-Pad2_ R10k		
R2  Net-_P4-Pad2_ Net-_P3-Pad2_ R10k		
P6  Net-_P11-Pad1_ Net-_P6-Pad2_ Net-_P6-Pad3_ Net-_P6-Pad4_ CONN_TV_Vr		
P7  Net-_P11-Pad1_ Net-_P7-Pad2_ Net-_P7-Pad3_ Net-_P7-Pad4_ CONN_TV_Zk		
P8  Net-_P11-Pad1_ Net-_P8-Pad2_ Net-_P8-Pad3_ Net-_P8-Pad4_ CONN_TV_GZk		
P9  Net-_P11-Pad1_ Net-_P9-Pad2_ Net-_P9-Pad3_ Net-_P9-Pad4_ CONN_TS_Vr		
P11  Net-_P11-Pad1_ Net-_P11-Pad2_ Net-_P11-Pad3_ Net-_P11-Pad4_ CONN_TS_Zk		
P12  Net-_P11-Pad1_ Net-_P12-Pad2_ Net-_P12-Pad3_ Net-_P12-Pad4_ CONN_TS_Snt		
P13  Net-_P11-Pad1_ Net-_P13-Pad2_ Net-_P13-Pad3_ ? CONN_T_Res		
U1  Net-_R13-Pad2_ Net-_R12-Pad2_ Net-_R11-Pad2_ Net-_R9-Pad2_ Net-_R7-Pad2_ Net-_R5-Pad2_ Net-_P4-Pad2_ Net-_P4-Pad2_ Net-_P4-Pad2_ ? ? ? Net-_P12-Pad4_ Net-_P11-Pad4_ Net-_P9-Pad4_ Net-_P8-Pad4_ Net-_P7-Pad4_ Net-_P6-Pad4_ ULN2803		
R5  Net-_P4-Pad2_ Net-_R5-Pad2_ R10k		
R7  Net-_P4-Pad2_ Net-_R7-Pad2_ R10k		
R9  Net-_P4-Pad2_ Net-_R9-Pad2_ R10k		
R11  Net-_P4-Pad2_ Net-_R11-Pad2_ R10k		
R12  Net-_P4-Pad2_ Net-_R12-Pad2_ R10k		
R13  Net-_P4-Pad2_ Net-_R13-Pad2_ R10k		
P14  Net-_P11-Pad1_ Net-_P14-Pad2_ Net-_P14-Pad3_ ? CONN_T_Res		
R25  Net-_P4-Pad2_ Net-_P14-Pad2_ R10k		
P4  Net-_F1-Pad1_ Net-_P4-Pad2_ CONN_SUPPLY		
R18  Net-_P6-Pad3_ Net-_F3-Pad1_ R240		
R19  Net-_P7-Pad3_ Net-_F3-Pad1_ R240		
R20  Net-_P8-Pad3_ Net-_F3-Pad1_ R240		
R21  Net-_P9-Pad3_ Net-_F3-Pad1_ R240		
R26  Net-_P11-Pad3_ Net-_F3-Pad1_ R240		
R27  Net-_P12-Pad3_ Net-_F3-Pad1_ R240		
R28  Net-_P13-Pad3_ Net-_F3-Pad1_ R240		
R29  Net-_P14-Pad3_ Net-_F3-Pad1_ R240		
F1  Net-_F1-Pad1_ Net-_F1-Pad2_ 1A		
F3  Net-_F3-Pad1_ Net-_F1-Pad1_ 1A		
P5  Net-_K1-Pad8_ Net-_F2-Pad1_ Net-_P1-Pad2_ Net-_P5-Pad4_ Net-_P5-Pad5_ Net-_P5-Pad6_ Net-_P5-Pad7_ CONN_Aux_Res		
F2  Net-_F2-Pad1_ Net-_F1-Pad1_ 1A		
R1  Net-_P1-Pad3_ Net-_P1-Pad2_ R10k		
R3  Net-_P1-Pad4_ Net-_P1-Pad2_ R10k		
R4  Net-_P1-Pad5_ Net-_P1-Pad2_ R10k		
R6  Net-_P1-Pad6_ Net-_P1-Pad2_ R10k		
R8  Net-_P1-Pad7_ Net-_P1-Pad2_ R10k		
U2  Net-_P1-Pad8_ Net-_P1-Pad8_ Net-_P1-Pad7_ Net-_P1-Pad7_ Net-_P1-Pad6_ Net-_P1-Pad5_ Net-_P1-Pad4_ Net-_P1-Pad3_ Net-_P1-Pad2_ Net-_K1-Pad8_ Net-_P5-Pad7_ Net-_P5-Pad6_ Net-_P5-Pad5_ Net-_P5-Pad4_ Net-_K2-Pad9_ Net-_K2-Pad9_ Net-_K1-Pad9_ Net-_K1-Pad9_ ULN2803		
R10  Net-_P1-Pad8_ Net-_P1-Pad2_ R10k		
P2  Net-_P2-Pad1_ Net-_P2-Pad2_ CONN_I^2C		

.end
